US05726162
To solution of sodium methoxide (7.52 g) in methanol (130 ml) was added cyanoacetamide (5.84 g) followed by 2-(4-chlorophenyl)-3-dimethylaminopropenal and the resulting suspension was refluxed overnight. During this time a yellow solid was formed. The mixture was cooled to room temperature and glacial acetic add (50 ml) was added followed by water (100 ml). The resulting yellow orange solid was filtered off, washed several times with water and dried to yield 8.1 g of 3-cyano-5-(4-chlorophenyl)-2-pyridinone.

reactant | sodium methoxide | 7.52 g | C[O-].[Na+]
reactant | cyanoacetamide | 5.84 g | C(#N)CC(=O)N | C3H4N2O
reactant | 2-(4-chlorophenyl)-3-dimethylaminopropenal | ClC1=CC=C(C=C1)C(C=O)=CN(C)C | C11H12ClNO
reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
solvent | methanol | 130 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 3-cyano-5-(4-chlorophenyl)-2-pyridinone | 8.1 g | C(#N)C=1C(NC=C(C1)C1=CC=C(C=C1)Cl)=O | C12H7ClN2O
